US08486946B2
Step 2: Preparation of 2-(2-fluoro-3-methylpyridin-4-yl)-5-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one
5-{[4-(1H-Pyrazol-1-yl)phenyl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one (25 mg, 0.073 mmol), copper(I)iodide (14 mg, 0.073 mmol, 1 equiv), tribasic potassium phosphate (93 mg, 0.44 mmol, 6.0 equiv), (±)-trans-N,N′-bismethyl-1,2-cyclohexanediamine (31 mg, 3.0 equiv) and 2-fluoro-4-iodo-3-picoline (52 mg, 0.22 mmol, 3.0 equiv) were combined in degassed N,N-dimethylformamide (3 mL) and the mixture was placed into an oil bath preheated to 110° C. for 1 hour. The mixture was cooled to ambient temperature, poured into sodium bicarbonate (25 mL, aqueous saturated) and extracted with ethyl acetate (3×50 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 0:100; hexanes:ethyl acetate), providing the titled compound: 1H-NMR (400 MHz, CDCl3) δ 8.32 (1H, d, J=8.1 Hz), 8.15 (1H, d, J=5.3 Hz), 7.91 (1H, d, J=2.5 Hz), 7.72 (2H, d, J=8.5 Hz), 7.72 (1H, m), 7.67-7.59 (3H, m), 7.46 (1H, m), 7.43 (2H, d, J=8.3 Hz), 6.47 (1H, m), 5.89 (2H, s), 2.37 (3H, s) ppm; high resolution mass spectrometry (ES+) m/z 452.1623 [(M+H)+; calculated for C25H19FN7O: 452.1630].

reactant | 5-{[4-(1H-Pyrazol-1-yl)phenyl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one | 0.073 mmol, 25 mg | N1(N=CC=C1)C1=CC=C(C=C1)CN1N=C2C(C=3C=CC=CC13)=NNC2=O | C19H14N6O
reactant | potassium phosphate | 0.44 mmol, 93 mg, 6.0 equiv | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (±)-trans-N,N′-bismethyl-1,2-cyclohexanediamine | 31 mg, 3.0 equiv | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | 2-fluoro-4-iodo-3-picoline | 0.22 mmol, 52 mg, 3.0 equiv | FC1=NC=CC(=C1C)I | C6H5FIN
reactant | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | copper(I)iodide | 0.073 mmol, 14 mg, 1 equiv | [Cu]I
product | 2-(2-fluoro-3-methylpyridin-4-yl)-5-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one | FC1=NC=CC(=C1C)N1N=C2C(=NN(C=3C=CC=CC23)CC2=CC=C(C=C2)N2N=CC=C2)C1=O | C25H18FN7O
